US07368578B2
A mixture of ethyl 4-oxobutenate (25.31 g), 2,3-butanedione-2-oxime (20.02 g) and 4N hydrogenchloride-ethyl acetate solution (300 mL) was stirred at room temperature for 4 days. After concentration of the reaction mixture, diethyl ether was added to the residue, and the residue was decanted and washed. Tetrahydrofuran (300 mL) was added to the residue, and thionyl chloride (35.33 g) was further added. The mixture was heated under reflux for 2 hrs. After concentration of the reaction mixture, ethyl acetate was added to the residue. The ethyl acetate layer was washed successively with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give from a fraction eluted with ethyl acetate-hexane (1:8, v/v), ethyl (2E)-3-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)-2-propenoate as colorless crystals (24.98 g, yield 55%). Recrystallization from hexane gave prism crystals. melting point: 53-54° C.

reactant | ethyl 4-oxobutenate | 25.31 g | O=CC=CC(=O)OCC | C6H8O3
reactant | 2,3-butanedione-2-oxime | 20.02 g | CC(C(C)=O)=NO | C4H7NO2
reactant | hydrogenchloride ethyl acetate | 4N, 300 mL | Cl.C(C)(=O)OCC
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | ethyl (2E)-3-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)-2-propenoate | 24.98 g, yield 55% | ClCC=1N=C(OC1C)/C=C/C(=O)OCC | C10H12ClNO3
